US06927222B2
ii) 3-(4-Chloro-benzyloxy)-pyrrolidine
A solution of 3-(4-Chloro-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.28 g, 0.9 mmol) in aqueous 90% formic acid (7.5 mL) was stirred at (0° C.) for 30 min. then at room temperature overnight. The solvents were removed under reduced pressure and the residue was treated with saturated aqueous potassium carbonate and extracted twice with n-butanol. The combined organic extracts was concentrated and the residue was purified by flash chromatography (SiO2, dichloromethane-methanol-ammonium hydroxide, 8:8:1 then 50:10:1) to afford the subtitle compound 3-(4-Chloro-benzyloxy)-pyrolidine (0.13 g, 70%).

reactant | 3-(4-Chloro-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.9 mmol, 0.28 g | C(C)(C)(C)OC(=O)N1CC(CC1)OCC1=CC=C(C=C1)Cl | C16H22ClNO3
solvent | formic acid | 7.5 mL | C(=O)O | CH2O2
product | 3-(4-Chloro-benzyloxy)-pyrolidine | 0.13 g, 70% | ClC1=CC=C(COC2CNCC2)C=C1 | C11H14ClNO
